US06162923
1,3-diazaspiro[4,4]non-1-en-4-one monohydrochloride
20 g (0.156 mol) of 1-aminocyclopentane-1-carboxamide and 28 g (0.19 mol) of trimethyl orthoformate are refluxed for 1 hour. The condenser is then changed to a "No hold up" condenser, and the temperature is elevated to 140° C. inner temperature. The residue is dissolved in 150 ml of acetone the pH is adjusted to 1-2 with concentrated hydrochloric acid and after cooling the resulting suspension the product is filtered of. 25 g of the title compound is obtained, yield 92.2%.

reactant | 1-aminocyclopentane-1-carboxamide | 0.156 mol, 20 g | NC1(CCCC1)C(=O)N | C6H12N2O
reactant | trimethyl orthoformate | 0.19 mol, 28 g | C(OC)(OC)OC | C4H10O3
reactant | hydrochloric acid | Cl | ClH
solvent | acetone | 150 ml | CC(=O)C | C3H6O
product | 1,3-diazaspiro[4,4]non-1-en-4-one monohydrochloride | 25 g, yield 92.2% | Cl.N1=CNC(C12CCCC2)=O | InChI=1S/C7H10N2O.ClH/c10-6-7(9-5-8-6)3-1-2-4-7;/h5H,1-4H2,(H,8,9,10);1H
